US08048901B2
(1R,3S)-2-[3-(5-Methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxymethyl]benzeneboronic acid
1 ml of 1 N HCl is added to 300 mg of (1S,3R)-5-methyl-4-{3-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzyloxy]cyclohexyloxymethyl}-2-m-tolyloxazole in 5 ml of THF, and the mixture is stirred at RT until the reaction has gone to completion. The solvent is removed under reduced pressure and the compound is purified by RP-HPLC. This gives (1R,3S)-2-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxymethyl]benzeneboronic acid as a colorless oil. C25H30BNO5 (435.33), MS (ESI): 436 (M+H+).

reactant | HCl | 1 N, 1 ml | Cl | ClH
reactant | (1S,3R)-5-methyl-4-{3-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzyloxy]cyclohexyloxymethyl}-2-m-tolyloxazole | 300 mg | CC1=C(N=C(O1)C=1C=C(C=CC1)C)CO[C@@H]1C[C@@H](CCC1)OCC1=C(C=CC=C1)B1OC(C(O1)(C)C)(C)C | C31H40BNO5
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (1R,3S)-2-[3-(5-Methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxymethyl]benzeneboronic acid | CC1=C(N=C(O1)C=1C=C(C=CC1)C)CO[C@@H]1C[C@@H](CCC1)OCC1=C(C=CC=C1)B(O)O | C25H30BNO5
